US06372735B1
Ethyl 4-(4 5-dimethoxy-2-nitrophenyl)-4-oxo-2-butynoate
The procedure as described above in connection with Intermediate 1 was repeated to prepare ethyl 2,3-dibromo-4-(4,5-dimethoxy-2-nitrophenyl)-4-oxobutanoate (337 mg, 100%) in the form of a diastereo mixture as light brown oil (mixing ratio=2:1) from a solution of ethyl 4-(4,5-dimethoxy-2-nitrophenyl)-4-oxo-2-butenoate (199 mg, 0.6 mmol) in methylene chloride (10 ml) and a solution of bromine (0.04 ml) in methylene chloride (5 ml). The diastereo mixture was used in the next reaction without separation.

reactant | ethyl 2,3-dibromo-4-(4,5-dimethoxy-2-nitrophenyl)-4-oxobutanoate | 337 mg | BrC(C(=O)OCC)C(C(=O)C1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-])Br | C14H15Br2NO7
reactant | ethyl 4-(4,5-dimethoxy-2-nitrophenyl)-4-oxo-2-butenoate | 0.6 mmol, 199 mg | COC1=CC(=C(C=C1OC)C(C=CC(=O)OCC)=O)[N+](=O)[O-] | C14H15NO7
reactant | bromine | 0.04 ml | BrBr | Br2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(4 5-dimethoxy-2-nitrophenyl)-4-oxo-2-butynoate | COC1=CC(=C(C=C1OC)C(C#CC(=O)OCC)=O)[N+](=O)[O-] | C14H13NO7
